US07704995B2
3-Amino-N-methyl-6-{3-[(hydroxyamino)(imino)methyl]phenyl}pyrazine-2-carboxamide (40 mg, 0.14 mmol) was suspended in DMF (750 uL) followed by addition of PL-DIPAM (diisopropylaminomethyl) resin (100 mg, 2.33 mmol/g) and benzoyl chloride (20 uL, 0.17 mmol). The mixture was agitated for one hour then diluted with ethyl acetate and the spent resin removed by filtration, The organic filtrate was washed with water (3×), brine then dried over anhydrous magnesium sulfate. The mixture was then filtered and concentrated and the solid residue suspended in TIF (1 mmol) followed by addition of tetra-N-butylammonium fluoride (TBAF) (1.0 M in THF, 100 uL) and the solution was allowed to stir at room temperature over 12 hours. The mixture was concentrated and the residue partitioned with ethyl acetate and water. The organic layer was washed with water (1×), 1.0 M aqueous hydrochloric acid (lx) then brine and dried over anhydrous magnesium sulfate. The material was filtered and concentrated then the residue purified by preparative reverse phase HPLC (water/acetonitrile/0.1% TFA eluent). The pure fractions were combined and lyophilized to afford 3-amino-N-methyl-6-[3-(5-phenyl-1,2,4-oxadiazol-3-yl)phenyl]pyrazine-2-carboxamide (10.4 mg, 20% yield) as a yellow solid: MS (EI) for C20H17N6O2: 372 (MH+).

reactant | 3-Amino-N-methyl-6-{3-[(hydroxyamino)(imino)methyl]phenyl}pyrazine-2-carboxamide | 0.14 mmol, 40 mg | NC=1C(=NC(=CN1)C1=CC(=CC=C1)C(=N)NO)C(=O)NC | C13H14N6O2
reactant | DIPAM | 100 mg | CN1C(=O)CN=C(C2=C1C=CC(=C2)Cl)C3=CC=CC=C3 | C16H13ClN2O
reactant | benzoyl chloride | 0.17 mmol, 20 uL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | DMF | 750 uL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-amino-N-methyl-6-[3-(5-phenyl-1,2,4-oxadiazol-3-yl)phenyl]pyrazine-2-carboxamide | 10.4 mg, 20% yield | NC=1C(=NC(=CN1)C1=CC(=CC=C1)C1=NOC(=N1)C1=CC=CC=C1)C(=O)NC | C20H16N6O2
